US07691879B2
1-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]-6-methoxy-4-phenylisoquinoline-3-carbonitrile
Following the procedure for 1-(allyloxy)-6-methoxy-4-phenylisoquinoline-3-carbonitrile, using solketal in place of allyl alcohol, the title compound was synthesized.

reactant | 1-(allyloxy)-6-methoxy-4-phenylisoquinoline-3-carbonitrile | C(C=C)OC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C20H16N2O2
reactant | solketal | CC1(OCC(O1)CO)C | C6H12O3
product | 1-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]-6-methoxy-4-phenylisoquinoline-3-carbonitrile | CC1(OCC(O1)COC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N)C | C23H22N2O4
